US07547691B2
(A). Preparation of 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid
Butyllithium (2.5 M in hexane, 14.1 mL) is added dropwise to a stirred solution of benzo[b]thiophene-4-carboxylic acid (3.00 g, 16.8 mmol) in anhydrous THF (50 mL) at −78° C. under nitrogen. The resultant mixture is allowed to stir for 45 minutes at −78° C. before it is added, via cannula, to a stirred cold solution of 5-bromo-2-chloropyrimidine (3.26 g, 16.8 mmol) in anhydrous THF (50 mL) at −30° C. Upon the completion of the addition, the reaction mixture is stirred for 30 minutes at −30° C., then at ambient temperature for another 1.5 hours. Acetic acid (2.4 mL) is added to the reaction mixture, after 5 minutes, followed by the addition of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (4.01 g, 17.7 mmol) dissolved in THF (10 mL). The mixture is allowed to stir for 10 minutes before it is treated dropwise with HCl (37%, 30 mL), then the mixture is stirred for another 1 hour. THF is evaporated off and the mixture becomes a suspension. The solid is filtered off, washed with water (100 mL×2), and then dried under vacuum. The dry solid is suspended in dichloromethane (45 mL) and ethanol (5 mL) and stirred for 30 minutes. After filtration, the solid is resuspended in ether (50 mL) and the suspension is stirred for another 30 minutes. After filtration and vacuum drying, the title compound is obtained as a yellow solid. (2.64 g, 42% yield).

reactant | Butyllithium | 2.5 M, 14.1 mL | C(CCC)[Li]
reactant | benzo[b]thiophene-4-carboxylic acid | 16.8 mmol, 3.00 g | S1C2=C(C=C1)C(=CC=C2)C(=O)O | C9H6O2S
reactant | 5-bromo-2-chloropyrimidine | 16.8 mmol, 3.26 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 17.7 mmol, 4.01 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | HCl | 30 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Acetic acid | 2.4 mL | C(C)(=O)O | C2H4O2
product | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid | 42% yield | BrC=1C(=NC(=NC1)Cl)C1=CC2=C(S1)C=CC=C2C(=O)O | C13H6BrClN2O2S
